US07109219B2
N1-(1-Pentyl)-5-(2-aminopyridin-4-yloxy)-1H-1-indolecarboxamide
4-(1H-5-Indolyloxy)-2-pyridinamine (5.0 g, 22 mmol, CAS No. 417722-11-3) which was described in WO 02/32872 was dissolved in N,N-dimethylformamide (60 ml); sodium hydride (1.06 g, 27 mmol) was added thereto at room temperature; and the reaction mixture was stirred for 30 minutes. Phenyl N-n-pentylcarbamate (5.06 g, 24 mmol) while stirring at room temperature; and the reaction mixture was stirred for 30 minutes. The reaction mixture was partitioned between water and ethyl acetate (insoluble portions were perfectly dissolved by adding a small amount of methanol); and the organic layer was washed with brine, dried over anhydrous sodium sulfate, concentrated under reduced pressure. The residue was purified by silica gel column chromatography (Fuji Silysia NH; hexane:ethyl acetate=1:1, ethyl acetate, ethyl acetate:methanol=95:5 in this order). The obtained crystals were suspended in hexane:ethanol=10:1, filtered off, washed with hexane, and dried under aeration to yield the title compound as colorless crystals (1.55 g, 4.58 mmol, 21%).

reactant | 4-(1H-5-Indolyloxy)-2-pyridinamine | 22 mmol, 5.0 g | N1C=CC2=CC(=CC=C12)OC1=CC(=NC=C1)N | C13H11N3O
reactant | sodium hydride | 27 mmol, 1.06 g | [H-].[Na+]
reactant | Phenyl N-n-pentylcarbamate | 24 mmol, 5.06 g | C(CCCC)NC(OC1=CC=CC=C1)=O | C12H17NO2
solvent | N,N-dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
product | N1-(1-Pentyl)-5-(2-aminopyridin-4-yloxy)-1H-1-indolecarboxamide | 4.58 mmol, 1.55 g, 21% | C(CCCC)NC(=O)N1C=CC2=CC(=CC=C12)OC1=CC(=NC=C1)N | C19H22N4O2
